US08008320B2
3-(Indole-2-yl)-4-(3,4,5-trimethoxyphenyl)-1H-pyrrole-2,5-dione
The general procedure was followed using indole-2-ethylglyoxylate (1.0 g, 4.61 mmol); 3,4,5-trimethoxyphenylacetamide (0.8 g, 3.0 mmol) and 1.0 M KOBut (10 ml, 10.0 mmol). Purification was achieved by column chromatography (ethyl acetate/hexanes 1/1) to yield the title compound (1.12 g, 65%) as red crystals. mp=252° C. 1H NMR (DMSO-d6), 300 MHz, δ [ppm]=3.68 (s, 6H, OCH3); 3.75 (s, 3H, OCH3); 6.87 (s, 2H); 6.98 (m, 2H); 7.14 (t, 1H); 7.53 (m, 2H); 11.04 (s, 1H, NH); 11.28 (s, 1H, NH). EI-MS (m/z): 378.7 (M+).

reactant | indole 2-ethylglyoxylate | 4.61 mmol, 1.0 g | N1C=CC2=CC=CC=C12.C(C)C(C(=O)[O-])=O
reactant | 3,4,5-trimethoxyphenylacetamide | 3.0 mmol, 0.8 g | COC=1C=C(C=C(C1OC)OC)CC(=O)N | C11H15NO4
product | 3-(Indole-2-yl)-4-(3,4,5-trimethoxyphenyl)-1H-pyrrole-2,5-dione | 1.12 g, 65% | N1C(=CC2=CC=CC=C12)C=1C(NC(C1C1=CC(=C(C(=C1)OC)OC)OC)=O)=O | C21H18N2O5
